US06624270B1
Acrodamn thus produced (7.000 g) was dissolved in 150 ml distilled acetonitrile, yielding an orange solution. A solution of 22.5 g of lead (IV) tetra acetate and 300 ml of distilled acetonitrile was placed in a room temperature water bath. The acrodamn/acetonitrile solution was poured, in one portion, into the lead (IV) tetra-acetate solution. The colorless lead solution immediately darkened to an orange-red solution and a white, voluminous precipitate appeared. The solution was allowed to stir for 10 minutes, and then filtered. The resulting precipitate was washed via filtration until no more color was liberated in the filtrate. The filtrate was then distilled by rotary vacuum evaporation technique (rotovapped) and stripped with a vacuum pump. To the resulting residue, 400 ml of ether was added and allowed to stir overnight. The ether solution was filtered and rotovapped to yield 5.63 grams of 2-vinyl-4,5-dicyanoimidazole (82%) as a reddish solid. The crude product was purified by dissolving in a minimum of ethyl acetate. The ethyl acetate was poured into ether, the resulting precipitate was filtered and the filtrate evaporated. Detailed characterization data for the new compound are as follows:

reactant | lead (IV) tetra acetate | 22.5 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | acrodamn acetonitrile | C=CC=N/C(=C(\C#N)/N)/C#N.C(C)#N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2-vinyl-4,5-dicyanoimidazole | 5.63 grams, 82% | C(=C)C=1NC(=C(N1)C#N)C#N | C7H4N4
